US07932246B2
N-(1-Isobutoxyethoxy) 2-[6-(naphthalene-2-sulfonylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxamide
EDCl (7.27 g, 37.9 mmol) was added to a suspension of 2-{6-[(2-napthylsulphonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylic acid (22.19 g, 54.12 mmol) in anhydrous DCM (100 ml) and anhydrous THF (500 ml) at r.t. under N2. Et3N (22.6 ml, 162.14 mmol) was added followed by HOBt (8.78 g, 64.97 mmol) and intermediate D (8.9 ml, 64.89 mmol). After stirring at r.t. for 6 days LCMS indicated 78% conversion to the required product. The reaction mixture was retreated with EDCl (10.25 g, 53.47 mmol), HOBt (7.22 g, 53.43 mmol) and Et3N (19.4 ml, 139.00 mmol). After stirring for another 3 days at r.t. LCMS showed 96% conversion. The reaction mixture was evaporated to dryness and suspended in EtOAc (100 ml) and water (100 ml). A white solid was collected by filtration, washed with EtOAc (50 ml), water (50 ml), MeOH (50 ml) and dried in vacuo to give the crude product as a white solid (30 g, LCMS purity 92%). This was stirred in EtOH (1500 ml) at 60° C. for 1 h giving a white suspension which was cooled to r.t., filtered and air dried to give the title compound as a white solid (24.0 g, 87%). LCMS purity 97%, m/z 511 [M+H]+, 1H NMR (400 MHz, d6-DMSO) δ: 1.60-1.75 (6H, m), 1.80 (2H, s), 1.90 (1H, s), 4.50 (3H, m), 4.65 (2H, d), 4.00 (1H, m), 4.95 (1H, t), 7.60 (2H, m), 7.80-8.30 (4H, d), 8.50 (1H, s), 8.65 (2H, s).

reactant | EDCl | 37.9 mmol, 7.27 g | CCN=C=NCCCN(C)C.Cl
reactant | 2-{6-[(2-napthylsulphonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylic acid | 54.12 mmol, 22.19 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1C2CN(CC12)C1=NC=C(C=N1)C(=O)O | C20H18N4O4S
reactant | Et3N | 162.14 mmol, 22.6 ml | CCN(CC)CC | C6H15N
reactant | HOBt | 64.97 mmol, 8.78 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | THF | 500 ml | C1CCOC1 | C4H8O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(1-Isobutoxyethoxy) 2-[6-(naphthalene-2-sulfonylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxamide | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H31N5O5S
